US05409943
(b) N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-(2-fluorophenyl)guanidine
A mixture of yellow mercuric oxide (4.13g, 0.019 mol), N-[3-(2-chloro-6-fluoro -benzyloxy)pyrid-2-yl]-N'-(2-fluorophenyl)thiourea (3.10g, 0.0076 mol) and methanolic ammonia solution (60 ml) was stirred for 24 hours at room temperature. The mixture was filtered through celite and the filtrate evaporated to a yellow solid, which was recrystallised from ethyl acetate/pet. ether. Yield 1.51 g (51%), m.p 138°-140 ° C.

reactant | N-[3-(2-chloro-6-fluoro -benzyloxy)pyrid-2-yl]-N'-(2-fluorophenyl)thiourea | 0.0076 mol, 3.10g | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=C(C=CC=C2)F)C(=CC=C1)F | C19H14ClF2N3OS
reactant | ammonia | 60 ml | N | H3N
product | N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-(2-fluorophenyl)guanidine | ClC1=C(COC=2C(=NC=CC2)NC(=N)NC2=C(C=CC=C2)F)C(=CC=C1)F | C19H15ClF2N4O
